US04163112
Preparation of O-[4-(2,2-Dimethoxyethoxy)phenyl] N-Methylcarbamate
4-(2,2-Dimethoxyethoxy)phenol (5.0 grams) and benzene were charged into a glass reaction vessel equipped with a mechanical stirrer. Methyl isocyanate (3.5 ml) and 4 drops of triethylamine were then added, and the reaction mixture was stirred at room temperature for a period of about 6 hours. After this time the reaction mixture was filtered, and the filtrate was concentrated to 10 ml by partially stripping the solvent under reduced pressure. Cyclohexane (10 ml) was then added to the concentrate, resulting in the formation of a precipitate. The precipitate was recovered by filtration to yield the desired product O-[4-(2,2-dimethoxyethoxy)phenyl] N-methylcarbamate as a slightly pink solid melting at 79° to 81° C.

reactant | 4-(2,2-Dimethoxyethoxy)phenol | 5.0 grams | COC(COC1=CC=C(C=C1)O)OC | C10H14O4
reactant | Methyl isocyanate | 3.5 ml | CN=C=O | C2H3NO
catalyst | triethylamine | 4 drops | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | O-[4-(2,2-dimethoxyethoxy)phenyl] N-methylcarbamate | CNC(OC1=CC=C(C=C1)OCC(OC)OC)=O | C12H17NO5
